US07737166B2
4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N-methoxy-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (#41)
4-Cyano-7-fluoro-N-methoxy-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-115) (200 mg, 0.59 mmol) was dissolved in dimethyl sulfoxide (10 ml), and at room temperature, triethylamine (99 μl, 0.71 mmol) was added. Next, the solution was heated at 150° C., and a solution of (3S)-3-(dimethylamino)pyrrolidine (90 μl, 0.71 mmol) dissolved in dimethyl sulfoxide (2 ml) was added all at a time, followed by further stirring for 1.5 hours. The mixture liquid was cooled to room temperature, then this was fractionated with ethyl acetate and saturated brine. The aqueous layer was separated, this was extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by preparative TLC (eluent, chloroform:methanol=94:6) to obtain the entitled compound (81 mg, 32%) as a brown amorphous substance.

reactant | 4-Cyano-7-fluoro-N-methoxy-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 0.59 mmol, 200 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)OC)F)C2=CC=CC=C2)C | C18H14FN3O3
reactant | triethylamine | 0.71 mmol, 99 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.71 mmol, 90 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N-methoxy-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 81 mg, 32% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)OC)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C24H27N5O3
